US05559116
A mixture of decanyl chloroformate (2.4 g, 11 mmol), and N-[2-[4-(6-fluoro-1H-indazol-3-yl)-1-piperazinyl]ethyl]phthalimide (3.9 g, 10 mmol) was warmed on the steam bath for 15 minutes. The reaction was allowed to cool to ambient temperature, and then ether was added to the residue. The resulting solid was filtered to afford N-2-[4-(1-decanoxy-6-fluoro-1H-indazol-3-yl)-1-piperazinyl]ethyl]phthalimide hydrochloride.

reactant | decanyl chloroformate | 11 mmol, 2.4 g | ClC(=O)OCCCCCCCCCC | C11H21ClO2
reactant | N-[2-[4-(6-fluoro-1H-indazol-3-yl)-1-piperazinyl]ethyl]phthalimide | 10 mmol, 3.9 g | FC1=CC=C2C(=NNC2=C1)N1CCN(CC1)CCN1C(C=2C(C1=O)=CC=CC2)=O | C21H20FN5O2
solvent | ether | CCOCC | C4H10O
product | phthalimide hydrochloride | Cl.C1(C=2C(C(N1)=O)=CC=CC2)=O | InChI=1S/C8H5NO2.ClH/c10-7-5-3-1-2-4-6(5)8(11)9-7;/h1-4H,(H,9,10,11);1H
